US05635509
4-[2-(3,4-Dichlorophenyl)-4-(4-hydroxy-4-phenylpiperidino)butyroyl]-3-phenyl-1H-pyrazole
A solution of 4-(3,4-dichlorophenyl)-6-(4-hydroxy-4-phenylpiperidino)-1-phenyl-hex-1-yne-3-one (0.30 g) in diethyI ether (25 mL) was cooled to 0° C. and was treated with diazomethane (generated by the reaction of and ethereal solution of N-methyl-N-nitroso-p-toluenesulfonamide with ethanolic potassium hydroxide (Anal. Chem., 45, 2302, 1973)). The resulting mixture was allowed to warm to room temperature and stirred for 3 days. The solvent was evaporated. Radial chromatography, eluting with dichloromethane:methanol (gradient 97.5:2.5, 95:5), afforded the title compound (50 mg) as a white powder; mp 112°-114° C.; NMR: 8.13 (s,1), 7.56-7.26 (m,12), 7.08 (d,1), 4.33 (broad s,1), 2.68 (m,2), 2.37 (m,3), 2.05 (broad s,1), 1.86 (broad s,1), 1.73-1.43 (m,5); MS: m/z=534(M+l). Analysis for C30H29Cl2N3O2 ·0.75 H2O: Calculated: C, 65.75; H, 5.61; N, 7.67; Found: C, 65.71; H, 5.60; N, 7.83.

reactant | 4-(3,4-dichlorophenyl)-6-(4-hydroxy-4-phenylpiperidino)-1-phenyl-hex-1-yne-3-one | 0.30 g | ClC=1C=C(C=CC1Cl)C(C(C#CC1=CC=CC=C1)=O)CCN1CCC(CC1)(C1=CC=CC=C1)O | C29H27Cl2NO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-methyl-N-nitroso-p-toluenesulfonamide | CN(S(=O)(=O)C1=CC=C(C=C1)C)N=O | C8H10N2O3S
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethyI ether | 25 mL | C(C)OCC | C4H10O
product | 4-[2-(3,4-Dichlorophenyl)-4-(4-hydroxy-4-phenylpiperidino)butyroyl]-3-phenyl-1H-pyrazole | 50 mg | ClC=1C=C(C=CC1Cl)C(C(=O)C=1C(=NNC1)C1=CC=CC=C1)CCN1CCC(CC1)(C1=CC=CC=C1)O | C30H29Cl2N3O2
